US07645789B2
1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (196 mg, 0.75 mmol) was added to a solution of 5-amino-2-tert-butyl-1-(2-hydroxyethyl)-1H-indole-4-carbonitrile (150 mg, 0.58 mmol) and triethylamine (242 μL, 1.74 mmol) in dichloromethane (2 mL). The reaction was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and extracted with 1N HCl solution (×2), saturated NaHCO3 solution (×2), brine, dried over MgSO4, filtered and concentrated. The residue was dissolved in DMSO and purified by reverse-phase HPLC to yield the product, N-(2-tert-butyl-4-cyano-1-(2-hydroxyethyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 481.2, found 482.5 (M+1)+. Retention time 1.99 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.93 (s, 1H), 7.71 (d, J=8.8 Hz, 1H), 7.51 (s, 1H), 7.42 (d, J=8.3 Hz, 1H), 7.33 (d, J=1.6 Hz, 1H), 7.08 (d, J=8.8 Hz, 1H), 6.28 (s, 1H), 5.05 (t, J=5.6 Hz, 1H), 4.42 (t, J=6.8 Hz, 2H), 3.70-3.65 (m, 2H), 1.51-1.48 (m, 2H), 1.44 (s, 9H), 1.19-1.16 (m, 2H).

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.75 mmol, 196 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
reactant | 5-amino-2-tert-butyl-1-(2-hydroxyethyl)-1H-indole-4-carbonitrile | 0.58 mmol, 150 mg | NC1=C(C=2C=C(N(C2C=C1)CCO)C(C)(C)C)C#N | C15H19N3O
reactant | triethylamine | 1.74 mmol, 242 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(2-tert-butyl-4-cyano-1-(2-hydroxyethyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | C(C)(C)(C)C=1N(C2=CC=C(C(=C2C1)C#N)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CCO | C26H25F2N3O4
